US06949542B2
4-(3-Pyridin-2-yl-phenyl)-7-(2,2,2-trifluoro-ethoxy)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-[3-oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester (Example M52) (380 mg, 0.72 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a white solid (201 mg).

reactant | [2-[3-oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | 0.72 mmol, 380 mg | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O)=O | C27H26F3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Pyridin-2-yl-phenyl)-7-(2,2,2-trifluoro-ethoxy)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1=C(C=CC=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=CC(=C2)OCC(F)(F)F | C22H16F3N3O2
